Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
fall from horse
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Fall from a horse, wearing a helmet, head strike. Patient denied 
loss of consciousness but had dizziness post fall with back and 
neck ___. She was found to have L1 fracture and L2,L3 
nondisplaced fractures, and possible cervical spine process 
injury. Hematocrit original drop with CTA of liver finding of 
hemangioma vs extravasation. 
 
Past Medical History:
epilepsy
anxiety
asthma with recent exacerbations, bronchitis
depression
mild cognitive impairment, hx of skull fracture
closed head trauma
concussions
toe fractures

Past Surgical History:
Bilateral breast reduction in ___

 
Social History:
___
Family History:
Father- renal cancer
Mother, brother- schizophrenia
sister- breast cancer

 
Physical Exam:
Admission physical exam- please see ACS ER trauma History and 
physical sheet in scanned documents

Discharge Physical Exam: 
VS: 98.2T  HR 74  BP 102/60  RR 16  96% SpO2, on room air
General: No acute distress, sitting in a chair with TLSO brace 
in place and ___ J collar. Clear and fluid speech 
HEENT: NCAT, EOMI, no scleral icterus/injection/hemorrhage
CV: RRR, no murmurs/rubs/gallops, S1 and S2 present
PULM: Clear to auscultation bilaterally, with no adventitious 
sounds
Abd: soft, nontender, nondistended. 
Ext: moving all 4 extremities, no paresthesia or weakness noted. 
No peripheral edema. 

 
Pertinent Results:
___ 04:00AM BLOOD WBC-7.6 RBC-3.96 Hgb-12.3 Hct-38.2 MCV-97 
MCH-31.1 MCHC-32.2 RDW-11.9 RDWSD-42.0 Plt ___
___ 02:55PM BLOOD WBC-7.1 RBC-3.75* Hgb-11.5 Hct-35.8 
MCV-96 MCH-30.7 MCHC-32.1 RDW-11.9 RDWSD-41.8 Plt ___
___ 02:10PM BLOOD WBC-7.2 RBC-3.63* Hgb-11.4 Hct-33.8* 
MCV-93 MCH-31.4 MCHC-33.7 RDW-12.0 RDWSD-41.9 Plt ___
___ 08:15AM BLOOD WBC-6.0# RBC-3.07* Hgb-9.8* Hct-29.8* 
MCV-97 MCH-31.9 MCHC-32.9 RDW-12.1 RDWSD-42.8 Plt ___
___ 02:20PM BLOOD WBC-13.9* RBC-3.76* Hgb-11.8 Hct-35.7 
MCV-95 MCH-31.4 MCHC-33.1 RDW-12.1 RDWSD-42.2 Plt ___
___ 08:15AM BLOOD Neuts-70.5 Lymphs-18.0* Monos-9.9 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-4.19 AbsLymp-1.07* 
AbsMono-0.59 AbsEos-0.05 AbsBaso-0.02
___ 04:00AM BLOOD Plt ___
___ 08:15AM BLOOD Plt ___
___ 02:20PM BLOOD ___ PTT-23.8* ___
___ 02:20PM BLOOD Plt ___
___ 02:20PM BLOOD ___
___ 02:20PM BLOOD UreaN-16 Creat-1.0
___ 04:00AM BLOOD ALT-11 AST-19 AlkPhos-92 TotBili-0.2
___:20PM BLOOD Lipase-39
___ 02:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:50PM BLOOD pO2-35* pCO2-35 pH-7.46* calTCO2-26 Base 
XS-1
___ 02:50PM BLOOD Lactate-1.9
___ 02:50PM BLOOD Hgb-11.8* calcHCT-35

Imaging: 
 
Brief Hospital Course:
She was admitted. efforts were made to control pain. She was 
initially on bed rest. She had a TLSO brace fitted. C-collar was 
kept in place. 

She was seen by ___ and OT who felt that there was no need for 
further tx/consult

discussed findings with ortho spine team and Dr. ___ 
l2-l3, said ok for dc with tlso;  She is to f.u 2 weeks in his 
office.

incidental findings , a possible portal arterial shunt was 
discussed with ___- she is aware of future imaging needs. 
She was discharge with collar and TLSO.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 50 mg PO NOON 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. PARoxetine 40 mg PO DAILY 
4. LamoTRIgine 200 mg PO BID 
5. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
PRN wheezing 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 325 mg 1 to 2 tablet(s) by mouth every six (6) 
hours Disp #*35 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 (One) tablet(s) by mouth twice a 
day Disp #*45 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 (One) tablet(s) by mouth up to every four 
(4) hours Disp #*18 Tablet Refills:*0 
4.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
5.  LamoTRIgine 200 mg PO BID 
Take as previously  
6.  LamoTRIgine 50 mg PO NOON  
7.  PARoxetine 40 mg PO DAILY  
8.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
PRN wheezing  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Trauma, fall from horse: 
-Lumbar 1 vertebrae compression fracture, Lumbar 2 and Lumbar 3 
vertebrae nondisplaced fractures
-hyperattenuation in hepatic segment 7, possible hemangioma
- left upper renal pole 1.4centimeter hypodense lesion
- 1.3 centimeter cyst in left adnexa 

Trauma, fall from horse: 
-L1 vertebrae compression fracture, L2 and L3 vertebrae 
nondisplaced fractures
-hyperattenuation in hepatic segment 7, possible hemangioma
- left upper renal pole 1.4cm hypodense lesion
- 1.3cm cyst in left adnexa 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ after suffering a fall from a horse. 
You were found to have lumbar spine fractures and were fitted 
with a TLSO brace. You should continue to wear this brace when 
you are out of bed or moving/walking. Due to a possible cervical 
(neck) spine process injury, you also have a collar on at all 
times until your follow up visit.  Your blood counts initially 
had decreased, and you had an additional scan to look for a 
source of bleeding, of which none was found. Your blood counts 
were watched and were found to be stable and increasing. Once 
you had your brace, you worked with the physical and 
occupational therapists.  You have recovered well, are eating a 
regular diet and your pain is well controlled with oral 
medications. You are now ready for discharge home to continue 
your recovery. Please follow the directions below to ensure a 
speedy return to your normal life:

You had incidental findings on your imaging, which were 
discussed with you. You will need renal(kidney) and pelvic 
ultrasounds. In addition, you will need imaging in 3 months to 
re-evaluate the liver finding to make sure it is not changing.  

Activity: 
- Please continue the exercises and practices advised to you by 
the physical and occupational therapists. 
- The ___ representative educated you on your TLSO brace. You 
are to continue to wear this brace whenever you get out of bed 
and when you are moving (walking). 
- Avoid bending, twisting, or lifting more than 5 pounds. 
- Wear the C-collar (collar on your neck) at all times until 
your follow up appointment. The orthopedic surgeon will evaluate 
you and determine if you need to continue wearing this collar. 
- Do not drive until you have stopped taking pain medicine, you 
feel you could respond in an emergency, and once your brace is 
cleared (removed) by your surgeon. 
- You may climb stairs. You should continue to walk several 
times a day. 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit. 

YOUR BOWELS:
- Constipation is a common side effect of narcotic pain medicine 
such as oxycodone. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.

PAIN MANAGEMENT:
- You are being discharged with a prescription for oxycodone for 
pain control. You may take Tylenol as directed, not to exceed 
3000mg in 24 hours. Take the Tylenol (acetaminophen) regularly 
for a few days after surgery but you may skip a dose or increase 
time between doses if you are not having pain until you no 
longer need it. You may take the oxycodone for moderate and 
severe pain not controlled by the Tylenol. You may take a stool 
softener while on narcotics to help prevent the constipation 
that they may cause. Slowly wean off these medications as 
tolerated. 
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.

If you experience any of the following, please contact your 
surgeon: 
- sharp pain or any severe pain that lasts several hours
- chest pain, pressure, squeezing, or tightness
- cough, shortness of breath, wheezing
- pain that is getting worse over time or pain with fever
- shaking chills, fever of more than 101
- a drastic change in nature or quality of your pain
- nausea and vomiting, inability to tolerate fluids, food, or 
your medications
- if you are getting dehydrated (dry mouth, rapid heart beat, 
feeling dizzy or faint especially while standing)
-any change in your symptoms or any symptoms that concern you

MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon. 

Please call with any questions or concerns. Thank you for 
allowing us to participate in your care. We hope you have a 
quick return to your usual life and activities. 

Your ___ Surgery Team 
 
Followup Instructions:
___